US04962254
In a 600 ml autoclave equipped with a magnetic stirrer, Solid Base A (0.45 g) and cumene (240 g) were charged under nitrogen, heated to 160° C. while stirring at 1,000 rpm and then reacted at the same temperature for 3 hours while supplying ethylene gas under pressure of 10 kg/cm2G. to produce tert.-amylbenzene (hereinafter referred to as "TAB").

reactant | cumene | 240 g | C1(=CC=CC=C1)C(C)C | C9H12
reactant | ethylene | C=C | C2H4
product | tert.-amylbenzene | C(C)(C)(CC)C1=CC=CC=C1 | C11H16
